US09376418B2
A flask fitted with a stirring bar was charged with zinc (64.9 mg, 0.992 mmol) and anhydrous THF (5.00 mL) under a nitrogen atmosphere. Then, a solution of 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carbaldehyde (250 mg, 0.698 mmol) in THF (5.00 mL) was added to the flask and the mixture was brought to reflux. Ethyl bromodifluoroacetate (135 μL, 1.048 mmol) was slowly added via syringe to the reaction mixture and refluxed for 1 hour. The reaction mixture was cooled to room temperature, quenched by the addition of saturated aqueous sodium thiosulfate (3.00 mL) and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (3:7 ethyl acetate:hexanes) to afford ethyl 2,2-difluoro-3-hydroxy-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate. MS APCI C22H20F5N4O3 [M+H]+ 483. found 483. 1H NMR (500 MHz, CDCl3) δ 8.84 (d, J=1.7 Hz, 1H), 8.66 (d, J=4.8 Hz, 1H), 7.98 (dd, J=2.2 Hz, 8.1 Hz, 1H), 7.89 (s, 1H), 7.52 (d, J=9.1 Hz, 2H), 7.38 (s, 1H), 7.14 (s, 1H), 7.06 (d, J=4.9 Hz, 1H), 5.26 (dd, J=4.9 Hz, 17.5 Hz, 1H), 4.47-4.29 (m, 2H), 2.45 (s, 3H), 1.36 (t, J=7.1 Hz, 3H).

reactant | 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carbaldehyde | 0.698 mmol, 250 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)C=O | C18H13F3N4O
reactant | Ethyl bromodifluoroacetate | 1.048 mmol, 135 μL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
catalyst | zinc | 0.992 mmol, 64.9 mg | [Zn] | Zn
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
product | ethyl 2,2-difluoro-3-hydroxy-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate | FC(C(=O)OCC)(C(C1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)O)F | C22H19F5N4O3
